US06365739B1
3) N′-(4,6-Dimethoxypyrimidin-2-yl)-N-(2-ethoxyphenoxysulfonyl)urea
Ethyl acetate (16 ml) was introduced and cooled to −10° C. under nitrogen. Phosgene (4.0 g, 0.04 mol) was passed in at this temperature and then a solution of 2-amino-4,6dimethoxypyrimidine (2.86 g, 0.0185 mol) and triethylamine (3.73 g, 0.037 mol) in ethyl acetate (20 ml) was added dropwise in the course of 2 h. After 1 h, the reaction was warmed to 20° C., nitrogen was blown through until there was no longer phosgene in the solution, and then a solution of 2-ethoxyphenoxysulfonamide (4.0 g, 0.0184 mol) in ethyl acetate (10 ml) and triethylamine (1.86 g, 0.0184 mol) in ethyl acetate (10 ml) were successively added dropwise in the course of 30 min. After 30 min, water (100 ml) was added, the phases were separated and the organic phase was extracted with 2×25 ml of 1.5M sodium hydroxide solution. The aqueous phases were combined, washed with xylene (20 ml), adjusted to pH=2 using 6M hydrochloric acid and the product was filtered off and dried; yield: 5.57 g, 70.7% of theory.

reactant | Phosgene | 0.04 mol, 4.0 g | C(=O)(Cl)Cl | CCl2O
reactant | 2-amino-4,6dimethoxypyrimidine | 0.0185 mol, 2.86 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | triethylamine | 0.037 mol, 3.73 g | C(C)N(CC)CC | C6H15N
reactant | 2-ethoxyphenoxysulfonamide | 0.0184 mol, 4.0 g | C(C)OC1=C(OS(=O)(=O)N)C=CC=C1 | C8H11NO4S
reactant | triethylamine | 0.0184 mol, 1.86 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 16 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | N′-(4,6-Dimethoxypyrimidin-2-yl)-N-(2-ethoxyphenoxysulfonyl)urea | COC1=NC(=NC(=C1)OC)NC(NS(=O)(=O)OC1=C(C=CC=C1)OCC)=O | C15H18N4O7S
